US04119531
A solution of ammonium paramolybdate was prepared by dissolving 120 gm of (NH4)6Mo7O24. 4H2O in 250 ml of concentrated ammonium hydroxide. The resulting solution was diluted subsequently with distilled water to make 500 ml of solution. A 1-ml portion of the solution contained the equivalent of 0.20 gm of MoO3. An 11-ml portion of the above-prepared solution was diluted to 250 ml with distilled water and the resultant aqueous solution was added to 219 gm (500 cc) of the 14-to-20-mesh alumina. This amount of solution just wetted all of the alumina. The impregnated alumina was then calcined in static air at a temperature of 1,000° F. for a period of 11/2 hours. The finished catalyst, hereinafter identified as Catalyst A, was found to have a surface area of 198 m2 /gm and to contain 1.22 wt.% MoO3, based upon the total catalyst weight.

reactant | (NH4)6Mo7O24. 4H2O | 120 gm | N.N.N.N.N.N.O.O.O.O.O[Mo](=O)(=O)O.O[Mo](=O)(=O)O.O[Mo](=O)(=O)O.O=[Mo](=O)=O.O=[Mo](=O)=O.O=[Mo](=O)=O.O=[Mo](=O)=O
solvent | ammonium hydroxide | 250 ml | [OH-].[NH4+]
solvent | water | O | H2O
product | ammonium paramolybdate | N.N.N.N.N.N.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.[Mo].[Mo].[Mo].[Mo].[Mo].[Mo].[Mo] | InChI=1S/7Mo.6H3N.24H2O/h;;;;;;;6*1H3;24*1H2
